US04812483
A mixture of 2,2-dimethyl-3-(3-benzyl-4-fluoro-benzyloxy)propan-1-al (0.4 g), triphenylphosphine (0.77 g), zinc dust (0.10 g) and carbon tetrachloride (3 cm3) in dichloromethane (3 ml) was heated at the reflux temperature for five hours. After cooling to the ambient temperature (ca 25° C.), the mixture was allowed to stand for 14 hours where upon it was triturated with diethylether. The solvent was evaporated under reduced pressure and the residue was passed through a short plug of silica gel using petroleum ether (boiling range 40°-60° C.) containing diethyl ether (10% by volume) as eluent to give 2,2-dimethyl-1-(3-benzyl-4-fluorobenzyloxy)-4,4-dichlorobut-3-ene (0.44 g).

reactant | 2,2-dimethyl-3-(3-benzyl-4-fluoro-benzyloxy)propan-1-al | 0.4 g | CC(C=O)(COCC1=CC(=C(C=C1)F)CC1=CC=CC=C1)C | C19H21FO2
reactant | triphenylphosphine | 0.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 3 cm3 | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | zinc | 0.10 g | [Zn] | Zn
product | 2,2-dimethyl-1-(3-benzyl-4-fluorobenzyloxy)-4,4-dichlorobut-3-ene | 0.44 g | CC(COCC1=CC(=C(C=C1)F)CC1=CC=CC=C1)(C=C(Cl)Cl)C | C20H21Cl2FO
